US06670334B2
Synthesis of 3-(4-{2-[6-Amino-9-(5-ethylcarbamoyl-3,4-dihydroxy-tetrahydro-furan-2-yl)9H-purin-2-ylamino]-ethyl}-phenyl)-propionic acid methyl ester (JR2171).
The methyl ester, JR2171, was synthesized by dissolving approximately 10.0 mg of 3-(4-{2-[6-amino-9-(5-ethylcarbamoyl-3,4-dihydroxy-tetrahydro-furan-2-yl)-9H-purin-2-ylamino]-ethyl}-phenyl)-propionic acid (CGS21680) in 5 mL 10% MeOH/CH2Cl2 and adding TMS Diazomethane (2.0 M solution in hexanes) dropwise until a yellow color persisted. After stirring for 30 minutes the solvent was removed under reduced pressure. The crude compound was then purified by HPLC using a C18 column and a MeOH/H2O gradient, yielding 6.7 mg of compound (66% yield). Characterization by HRMS, APCI MS, 1H NMR, and 13C NMR were consistent with the putative structure.

reactant | 3-(4-{2-[6-amino-9-(5-ethylcarbamoyl-3,4-dihydroxy-tetrahydro-furan-2-yl)-9H-purin-2-ylamino]-ethyl}-phenyl)-propionic acid (CGS21680) | approximately 10.0 mg | CCNC(=O)[C@@H]1[C@@H]([C@@H](C(O1)N2C=NC3=C2N=C(N=C3N)NCCC4=CC=C(C=C4)CCC(=O)O)O)O | C23H29N7O6
reactant | TMS Diazomethane | 2.0 M | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | MeOH H2O | CO.O
solvent | MeOH CH2Cl2 | 5 mL | CO.C(Cl)Cl
product | 3-(4-{2-[6-Amino-9-(5-ethylcarbamoyl-3,4-dihydroxy-tetrahydro-furan-2-yl)9H-purin-2-ylamino]-ethyl}-phenyl)-propionic acid methyl ester | 6.7 mg, 66% yield | COC(CCC1=CC=C(C=C1)CCNC1=NC(=C2N=CN(C2=N1)C1OC(C(C1O)O)C(NCC)=O)N)=O | C24H31N7O6
